US05538974
A mixture of methyl 4-(4-bromobutyl)-7-methoxy-3-oxo-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate (1.7 g), N-phenylpiperazine (1.37 g), potassium iodide (0.7 g), anhydrous potassium carbonate (1.2 g) and acetonitrile (30 ml) was refluxed under heating for 1.5 hours. After cooling, inorganic matter was filtered off and the filtrate was concentrated under reduced pressure. Water was added to the residue and the mixture was extracted with ethyl acetate. The organic layers were combined, washed with water and dried. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:1) to give 1.0 g of colorless, oily methyl 7-methoxy-3-oxo-4-[4-(4-phenylpiperazin-1-yl)butyl]-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate. When converted to hydrochloride, a white powder was obtained, melting point 155°-165° C. (decomposition).

reactant | methyl 4-(4-bromobutyl)-7-methoxy-3-oxo-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate | 1.7 g | BrCCCCC1(C(COC2=C(S1)C=C(C=C2)OC)=O)C(=O)OC | C16H19BrO5S
reactant | N-phenylpiperazine | 1.37 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium iodide | 0.7 g | [I-].[K+]
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | methyl 7-methoxy-3-oxo-4-[4-(4-phenylpiperazin-1-yl)butyl]-3,4-dihydro-2H-1,5-benzoxathiepine-4-carboxylate | COC=1C=CC2=C(SC(C(CO2)=O)(C(=O)OC)CCCCN2CCN(CC2)C2=CC=CC=C2)C1 | C26H32N2O5S
